US06498172B1
(3-{[(3-Chloro-benzenesulfonyl)-(4-thiazol-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester
The title compound of Step A was prepared following the method described in Step A of Example 13w from {3-[(4-thiazol-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester, prepared in Step A for Example 13i, and 3-chlorobenzenesulfonyl chloride with the following exception. The sulfonyl chloride was dissolved in CH2Cl2 (1 mL) and 0.28 mL was added to the reaction mixture. MS 585 (M+).

reactant | {3-[(4-thiazol-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1SC=CN1)=O | C23H26N2O3S
reactant | 3-chlorobenzenesulfonyl chloride | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (3-{[(3-Chloro-benzenesulfonyl)-(4-thiazol-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C=1SC=CN1)S(=O)(=O)C1=CC(=CC=C1)Cl)=O | C29H29ClN2O5S2
